US07459554B2
1-(3-Benzyloxyphenyl)-3-tert-butylimidazo[1,5-a]pyrazin-8-ylamine:
Gaseous NH3 is condensed into a cooled (dry ice/acetone) solution of 1-(3-benzyloxyphenyl)-3-tert-butyl-8-chloroimidazo[1,5-a]pyrazine (61.8 mg, 0.158 mmol) in iPrOH (2 mL) in a pressure tube until the volume is doubled, then the tube is sealed and heated to 110° C. (bath temp.) overnight. The seal has leaked during that time, LC indicates ≈50% conversion; therefore, ammonia is condensed in and the tube is heated as described before. The crude material is purified by preparative TLC (1000 μm silica gel layer, 20×20 cm plate), eluting once with 1% MeOH in CH2Cl2 and then three times with hexanes:EtOAc 3:1. One obtains the title compound as pale yellow solid, >95% pure by HPLC; 1H NMR (CDCl3, 400 MHz) δ 1.57 (s, 9H), 5.06 (brs, 2H), 5.14 (s, 2H), 6.99-7.04 (m, 2H), 7.22-7.26 (m, 2H), 7.31-7.42 (m, 4H), 7.44 (d, J=8.4 Hz, 2H), 7.46 (d, J=5.3 Hz, 1H). MS (ES+): m/z 373.1 (100) [MH+].

reactant | NH3 | N | H3N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 1-(3-benzyloxyphenyl)-3-tert-butyl-8-chloroimidazo[1,5-a]pyrazine | 0.158 mmol, 61.8 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C(C)(C)C | C23H22ClN3O
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 1-(3-Benzyloxyphenyl)-3-tert-butylimidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)C(C)(C)C | C23H24N4O
